US07138533B2
8-(6-Bromohexanoyl)-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one
Using 1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one (3.00 g) and 6-bromohexanoyl chloride (2,91 ml) according to the same method as that of Reference Example 1, the title compound (3.94 g) was obtained as white crystals having a melting point of 97 to 98° C.

reactant | 1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one | 3.00 g | C1CN2C(CCC3=CC=CC1=C23)=O | C11H11NO
reactant | 6-bromohexanoyl chloride | 2,91 ml | BrCCCCCC(=O)Cl | C6H10BrClO
product | 8-(6-Bromohexanoyl)-1,2,5,6-tetrahydro-4H-pyrrolo[3,2,1-ij]quinolin-4-one | 3.94 g | BrCCCCCC(=O)C=1C=C2CCC(N3C2=C(C1)CC3)=O | C17H20BrNO2
